US06900215B2
To a cooled (−78° C.) solution of 3-bromo-7-(1-methyl-1-triethylsilanyloxyethyl)imidazo[1,2-α]pyrimidine (440 mg, 1.20 mmol) in tetrahydrofuran (4 ml) was added isopropylmagnesium chloride (0.63 ml of a 2M solution in tetrahydrofuran, 1.26 mmol). After stirring at −78° C. for 5 min tributyltin chloride (0.36 ml, 1.32 mmol) was added, the reaction stirred for 10 min at −78° C., then allowed to warm to ambient temperature, to give a solution of 7-(1-methyl-1-triethylsilanyloxyethyl)-3-tributylstannanylimidazo[1,2-α]pyrimidine: m/z (ES+) 581 (M++H).

reactant | 3-bromo-7-(1-methyl-1-triethylsilanyloxyethyl)imidazo[1,2-α]pyrimidine | 1.20 mmol, 440 mg | BrC1=CN=C2N1C=CC(=N2)C(C)(O[Si](CC)(CC)CC)C | C15H24BrN3OSi
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | tributyltin chloride | 1.32 mmol, 0.36 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 7-(1-methyl-1-triethylsilanyloxyethyl)-3-tributylstannanylimidazo[1,2-α]pyrimidine | CC(C)(O[Si](CC)(CC)CC)C1=NC=2N(C=C1)C(=CN2)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C15H24N3OSi.3C4H9.Sn/c1-6-20(7-2,8-3)19-15(4,5)13-9-11-18-12-10-16-14(18)17-13;3*1-3-4-2;/h9-11H,6-8H2,1-5H3;3*1,3-4H2,2H3;
